US09278925B2
1,7,10-Trioxadispiro[2.2.4.2]dodecane
A solution of 30.0 g (192 mmol) of 1,4-cyclohexanedione monoethlene acetal in 750 ml of dichloromethane was added to a homogeneous mixture of 50.7 g (231 mmol) of trimethylsulphoxonium iodide and 25.9 g (231 mmol) of potassium tert-butoxide, and the reaction mixture was stirred at room temperature for one hour. Ice-water was added, the phases were separated, the aqueous phase was extracted repeatedly with dichloromethane and the combined organic phases were washed repeatedly with water, dried over sodium sulphate, filtered and concentrated. This gave 28.3 g (87% of theory) of the title compound.

reactant | 1,4-cyclohexanedione monoethlene acetal | 192 mmol, 30.0 g | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | trimethylsulphoxonium iodide | 231 mmol, 50.7 g | [I-].C[S+](=O)(C)C
reactant | potassium tert-butoxide | 231 mmol, 25.9 g | CC(C)([O-])C.[K+]
solvent | dichloromethane | 750 ml | ClCCl | CH2Cl2
product | 1,7,10-Trioxadispiro[2.2.4.2]dodecane | O1CC12CCC1(OCCO1)CC2 | C9H14O3
